US07960394B2
2-{4-[{1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3,8-dimethylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 85 but using 2-amino-3-methylbenzoic acid, methylamine, 4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and cyclobutanone. The obtained compound was further purified through reversed-phase liquid chromatography (acetonitrile-water) to give a colorless solid (m.p. 152.0-153.8° C.).

reactant | 2-amino-3-methylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | methylamine | CN | CH5N
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 2-{4-[{1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3,8-dimethylquinazolin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1C)=O)C | C25H29N3O2
